US07645771B2
Acid 2: N-(tert-butoxycarbonyl)-3-hydroxy-L-valine
3-Hydroxy-L-valine (500 mg, 3.75 mmoles) in 10 mL DMF with TEA (1 eq.) was treated with di(tert-butyl)dicarbonate (3.75 mmoles, 1 eq.) for 18 h at ambient temperature. The reaction mixture was diluted with water, pH adjusted to 10 with 6 N NaOH, washed with EtOAc, and the aqueous phase was isolated. The aqueous phase was combined with fresh DCM, pH adjusted to 4 with 1N HCl. The organic phase was isolated, dried over MgSO4, filtered and concentrated to give the title compound (68%) as a clear oil. 1H NMR (300 MHz, CD3OD) δ 4.09 (s, 1H), 1.46 (s, 9H), 1.30 (s, 3H), 1.26 (s, 3H).

reactant | 3-Hydroxy-L-valine | 3.75 mmoles, 500 mg | OC([C@H](N)C(=O)O)(C)C | C5H11NO3
reactant | di(tert-butyl)dicarbonate | 3.75 mmoles, 1 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 6 N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-3-hydroxy-L-valine | 68% | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)O)C(=O)O | C10H19NO5
